US07087644B1
232: 4-[((4-carboxybutyl)[2-[2-([4-[2-(4-hydroxyphenyl)ethyl]benzyl]oxy)phenyl]-ethyl]amino)methyl]benzoic acid
27 mg (0.037 mmol) of methyl 4-{[{2-[2-({4-[2-(4-{[tert-butyl(dimethyl)-silyl]oxy}phenyl)ethyl]benzyl}oxy)phenyl]ethyl}(5-ethoxy-5-oxopentyl)amino]-methyl}benzoate from XXI are dissolved in 10 ml of THF. 0.03 ml of tetrabutylammonium fluoride (IM solution in THF) are added, and the solution is stirred at RT for 1 hour. The solvents are evaporated under reduced pressure. The residue is dissolved in 2 ml of methanol. 0.05 ml of aqueous sodium hydroxide solution, 45%, and 0.2 ml of dichloromethane are added, and the solution is stirred at RT for 8 hours. The mixture is concentrated, water is added and the solution is acidified using sulphuric acid. The solid is filtered off and dried.

reactant | methyl 4-{[{2-[2-({4-[2-(4-{[tert-butyl(dimethyl)-silyl]oxy}phenyl)ethyl]benzyl}oxy)phenyl]ethyl}(5-ethoxy-5-oxopentyl)amino]-methyl}benzoate | 0.037 mmol, 27 mg | C(C)(C)(C)[Si](OC1=CC=C(C=C1)CCC1=CC=C(COC2=C(C=CC=C2)CCN(CCCCC(=O)OCC)CC2=CC=C(C(=O)OC)C=C2)C=C1)(C)C | C45H59NO6Si
reactant | tetrabutylammonium fluoride | 0.03 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-[((4-carboxybutyl)[2-[2-([4-[2-(4-hydroxyphenyl)ethyl]benzyl]oxy)phenyl]-ethyl]amino)methyl]benzoic acid | C(=O)(O)CCCCN(CCC1=C(C=CC=C1)OCC1=CC=C(C=C1)CCC1=CC=C(C=C1)O)CC1=CC=C(C(=O)O)C=C1 | C36H39NO6
